US07531558B2
4-(2-Fluorophenyl)-N-(2-methylbenzothiazol-5-yl)-1-piperazine carboxamide
To a stirred solution of 5-amino-2-methylbenzothiazole (100 mg, 0.61 mmol) and triethylamine (170 ul, 1.22 mmol) in DCM (5 ml) at 0° C. under an argon atmosphere was added triphosgene (60 mg, 0.2 mmol). The mixture was warmed to room temp. and stirred for 1 h. 4-(2-Fluorophenyl)piperazine (110 mg, 0.61 mmol) was added and the reaction was stirred at room temp. overnight. The solvent was removed in vacuo and the residue purified by chromatography eluting with a 0-100% EtOAc/petroleum ether gradient to give the title compound as a pale yellow solid (69 mg). 1H NMR (400 MHz, CDCl3) δ (ppm): 7.82 (d, 1H), 7.71 (d, 1H), 7.53 (dd, 1H), 6.92-7.10 (m, 4H), 6.65 (s, 1H), 3.69 (m, 2H), 3.13 (m, 2H), 2.81 (s, 3H). MS(ES): MH+ 371, M−H+ 369.

reactant | 5-amino-2-methylbenzothiazole | 0.61 mmol, 100 mg | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
reactant | triethylamine | 1.22 mmol, 170 ul | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.2 mmol, 60 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(2-Fluorophenyl)piperazine | 0.61 mmol, 110 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Fluorophenyl)-N-(2-methylbenzothiazol-5-yl)-1-piperazine carboxamide | 69 mg | FC1=C(C=CC=C1)N1CCN(CC1)C(=O)NC=1C=CC2=C(N=C(S2)C)C1 | C19H19FN4OS
